US07101905B2
Part A: 2-Cyano-3-(3-methylphenyl)-but-2-enoic acid ethyl ester
A mixture of 3′-methylacetophenone (50 mmole), ethyl cyanoacetate (50 mmole), acetic acid (1.14 mL) ammonium acetate (400 mg), and benzene (50 mL) was heated to reflux in a Dean-Stark apparatus. After approximately 10 hours, additional ethyl cyanoacetate (50 mmole), acetic acid (1.14 mL), and ammonium acetate (400 mg) are added. After an additional 10 hours, the reaction was cooled to room temperature, diluted with ethyl acetate (30 mL), washed with water (240 mL), brine (40 mL), and dried (Na2SO4). After filtering, the extract was concentrated in vacuo and the desired product, as a mixture of E- and Z-isomers, was isolated by column chromatography on silica gel, eluting with 5% ethyl acetate/petroleum ether. The purified oil solidified on standing at room tempera-ture.

reactant | 3′-methylacetophenone | 50 mmole | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | ethyl cyanoacetate | 50 mmole | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl cyanoacetate | 50 mmole | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 400 mg | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.14 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 1.14 mL, 400 mg | C(C)(=O)O | C2H4O2
product | 2-Cyano-3-(3-methylphenyl)-but-2-enoic acid ethyl ester | C(C)OC(C(=C(C)C1=CC(=CC=C1)C)C#N)=O | C14H15NO2
